US05051508
1-(2-Methylphenyl)-4-chloro-6-methyl-2,3-dihydropyrrolo[3,2-c]quinoline (1.5 g) in ethanol (100 ml) was hydrogenated over 10% palladium on charcoal (0 25 g) at an initial pressure of 3 bar. After 7 hours the mixture was filtered through celite and evaporated. Conversion to free base and recrystallisation from ethyl acetate/petroleum ether yielded 1-(2-methylphenyl)-6-methyl-2,3-dihydropyrrolo[3,2-c]quinoline (0.11 g, 31%), m.p. 109°-110°.

reactant | 1-(2-Methylphenyl)-4-chloro-6-methyl-2,3-dihydropyrrolo[3,2-c]quinoline | 1.5 g | CC1=C(C=CC=C1)N1CCC=2C(=NC=3C(=CC=CC3C21)C)Cl | C19H17ClN2
solvent | ethanol | 100 ml | C(C)O | C2H6O
catalyst | palladium on charcoal | 25 g | [Pd] | Pd
product | 1-(2-methylphenyl)-6-methyl-2,3-dihydropyrrolo[3,2-c]quinoline | 0.11 g, 31% | CC1=C(C=CC=C1)N1CCC=2C=NC=3C(=CC=CC3C21)C | C19H18N2
